US07906516B2
4.82 g (19.5 mmol) of ethyl 2-ethoxy-1,2-dihydroquinoline-1-carboxylate (EEDQ) are added to a suspension of 2.80 g (13.0 mmol) of N-Boc-D-proline and 1.66 g (13.0 mmol) of 4-chloroaniline in 50 ml of toluene, and the mixture is stirred at room temperature for 3 hours. The reaction mixture is filtered, and petroleum ether is added to the filtrate. The precipitate formed is filtered off and dried, giving tert-butyl (R)-2-(4-chlorophenylcarbamoyl)pyrrolidine-1-carboxylate as colourless crystals; ESI 325.

reactant | ethyl 2-ethoxy-1,2-dihydroquinoline-1-carboxylate | 19.5 mmol, 4.82 g | C(C)OC1N(C2=CC=CC=C2C=C1)C(=O)OCC | C14H17NO3
reactant | N-Boc-D-proline | 13.0 mmol, 2.80 g | C(=O)(OC(C)(C)C)N1[C@@H](C(=O)O)CCC1 | C10H17NO4
reactant | 4-chloroaniline | 13.0 mmol, 1.66 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (R)-2-(4-chlorophenylcarbamoyl)pyrrolidine-1-carboxylate | ClC1=CC=C(C=C1)NC(=O)[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C16H21ClN2O3
